US08124606B2
Compound 99: (R)—N-cyclopropyl-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide
In a vial equipped with a stir bar was charged (R)-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid (50 mg, 0.114 mmol) was taken up in DMF (1.14 mL). To the mixture was added N-ethyl-N-isopropylpropan-2-amine (59 μl, 0.34 mmol), O-(7-Azabenzotriazole-1-yl)-N, N,N′N′-tetramethyluronium hexafluorophosphate (64.9 mg, 0.171 mmol), and cyclopropanamine (9.16 uL, 0.125 mmol). The reaction was stirred at room temperature overnight. The reaction was purified via HPLC (55-90% acetonitrile in water, ammonium bicarbonate buffer). The fractions were collected and lyophilized to yield 25.1 mg (49%) of the product as a white solid 1H NMR (CHLOROFORM-d) δ: 8.42 (br. s., 1H), 7.78 (d, J=1.5 Hz, 1H), 7.65 (d, J=8.8 Hz, 2H), 7.13 (br. s., 1H), 6.85 (d, J=9.1 Hz, 2H), 6.17 (d, J=2.3 Hz, 1H), 5.05 (ddd, J=13.5, 2.7, 2.5 Hz, 1H), 4.42 (dd, J=10.4, 3.5 Hz, 1H), 3.53 (br. s., 2H), 3.34 (br. s., 4H), 3.14 (td, J=12.9, 2.3 Hz, 1H), 2.99 (td, J=12.8, 2.7 Hz, 1H), 2.78-2.93 (m, 3H), 2.68 (br. s., 4H), 2.39 (dd, J=13.6, 1.3 Hz, 1H), 0.80-0.90 (m, 2H), 0.54-0.67 (m, 2H). [M+H] calc'd for C23H28N6O2S, 479. found, 479.

reactant | (R)-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid | 0.114 mmol, 50 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)O)C=C3)CCSC2 | C22H25N5O3S
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.34 mmol, 59 μl | C(C)N(C(C)C)C(C)C | C8H19N
reactant | cyclopropanamine | 0.125 mmol, 9.16 uL | C1(CC1)N | C3H7N
solvent | DMF | 1.14 mL | CN(C)C=O | C3H7NO
product | (R)—N-cyclopropyl-4-(4-((6-oxo-5,6,6a,7,9,10-hexahydropyrido[3,2-e][1,4]thiazino[4,3-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 25.1 mg, 49% | C1(CC1)NC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCSC3)=O)=O | C25H30N6O2S
